Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
anemia; GI bleed
 
Major Surgical or Invasive Procedure:
Capsule endoscopy
Endoscopy
Colonoscopy

 
History of Present Illness:
This is a ___ with history of eating disorder, hypothalamic 
amenorrhea on HRT and chronic GI bleeding (overt obscure) 
presumably ___ small bowel AVMs who presents with GI Bleeding 
and lighthteadedness. Patient reports that she has had a ___ year 
history of chronic GI bleeding with extensive work-up including 
several endoscopies, colonoscopies, VCEs, CTs and MRIs without a 
clearly identified source. Most recently she bled in ___ and 
underwent a CT and MRI which did not show any cause for 
bleeding. She was given 1u pRBCs and iron infusion at that time. 
Since then she returned to her normal bowel habits which are 1 
brown BM every other day to every day. On ___, while 
travelling to the ___ from ___, she began having multiple 
"beet" colored stool with increased gas. Additionally she felt 
fatigued and had DOE and palpitations on exertion. She felt 
faint while standing however denied LOC. Denies GERD, dysphagia, 
NSAID use, abdominal pain, fevers, chills, NS, change in weight, 
melena, nausea or hematemesis. Given her symptoms she presented 
to the ED for evaluation where she was noted to have a Hb of 
7.0. She was given 2 units of blood and was admitted for further 
management.

On arrival to the floor, patient reports that her symptoms of 
dyspnea and LH have since resolved. She reports that she 
admittedly would like to "go home" as she has a "plan with [her] 
home gastroenterologist." Moreover she does not want further 
testing including endoscopy here while on vacation. She states 
that she has several periods where she does not have bleeding 
however her last bleed was in ___. SHe has received a total 
of 10 units in her lifetime. She has not noticed a change in 
bleeding episodes since starting HRT.

ROS: A 10 point ROS was reviewed and otherwise negative.
 
Past Medical History:
small bowel AVMs resulting in chronic anemia requiring multiple 
transfusions
h/o Eating disorder
Hypothalamic Amen
 
Social History:
___
Family History:
NO family history of bleeding, CAD or DM
 
Physical Exam:
VS: 98.4 113/69 61 18 100% RA
Gen: pale appearing, NAD
HEENT: EOMI PERRL, sclerae anicteric
Neck: supple
CV: nls1s2 faint flow murmur noted
Pulm: CTAB
Abd: soft NT ND +BS
Ext: wwp no edema
Neuro: grossly intact

Discharge exam:
VSS, orthostatics negative
Unchanged exam
 
Pertinent Results:
___ 01:10PM BLOOD WBC-4.1 RBC-2.18* Hgb-7.0* Hct-20.4* 
MCV-94 MCH-32.1* MCHC-34.3 RDW-13.3 RDWSD-45.8 Plt ___
___ 01:10PM BLOOD Neuts-61.7 ___ Monos-8.9 Eos-0.7* 
Baso-1.4* Im ___ AbsNeut-2.55 AbsLymp-1.11* AbsMono-0.37 
AbsEos-0.03* AbsBaso-0.06
___ 01:10PM BLOOD Plt ___
___ 01:10PM BLOOD Glucose-74 UreaN-19 Creat-0.5 Na-130* 
K-3.5 Cl-94* HCO3-30 AnGap-10
___ 01:10PM BLOOD ALT-26 AST-37 AlkPhos-40 TotBili-0.1
___ 01:10PM BLOOD Albumin-4.4
___ 01:12PM BLOOD Hgb-7.4* calcHCT-22

Discharge labs:

___ 03:30PM BLOOD Hct-28.2*
___ 08:09AM BLOOD WBC-5.1# RBC-3.50* Hgb-10.9* Hct-32.5* 
MCV-93 MCH-31.1 MCHC-33.5 RDW-15.0 RDWSD-50.3* Plt ___
___ 12:00AM BLOOD Hgb-10.5* Hct-30.8*
___ 05:05PM BLOOD Hgb-8.8* Hct-25.4*
___ 07:40AM BLOOD WBC-3.2* RBC-3.28* Hgb-10.1* Hct-30.2* 
MCV-92 MCH-30.8 MCHC-33.4 RDW-15.2 RDWSD-50.4* Plt ___
___ 08:09AM BLOOD Glucose-68* UreaN-17 Creat-0.5 Na-137 
K-3.8 Cl-101 HCO3-24 AnGap-16

Studies:
___ Colonoscopy:
 No evidence of diverticulosis.
Old blood was seen throughout the colon and into the distal 
terminal ileum, though no source of bleeding was identified.
Otherwise normal colonoscopy to cecum and terminal ileum 
___ Push Enteroscopy:
 Erythema in the stomach compatible with gastritis
Otherwise normal EGD to proximal jejunum 

 
Brief Hospital Course:
___ y/o woman with hx bowel AVMs with multiple episodes of GI 
bleeding requiring transfusions over the last year, who 
currently lives in ___ and followed by GI there, who is 
in ___ on vacation who has had increasing melena and BRBPR 
since ___.

# Acute Blood Loss Anemia: normocytic though may be from 
transfusions and iron supplementation. Per patient has a history 
of bowel AVMs however have not yet clearly identified the cause. 
Other considerations include: dieulafoys, ulcerations, polyps, 
masses, arterioenteric fistulas. Per patient she has had several 
endoscopies/colonoscopies/enteroscopies in the past and is 
interested in pursuing further work-up back in ___.  She 
required 4U PRBCs to stabilize blood counts while she continued 
to have active bleeding. She underwent a capsule endoscopy which 
was PENDING upon discharge.  The capsule was noted to be 
PROBABLY in the colon prior to discharge, but she was instructed 
to undergo a KUB either here or in ___ in ___ days to 
ensure passage of the capsule. She also had an EGD/colonoscopy 
which showed old blood in the colon, no active bleeding.  A CTA 
of the abdomen demonstrated no obvious AVMs, vascular 
malformations, active bleeding.  It showed, as noted above, the 
capsule was PROBABLY in the colon, but not definite.  Per her 
request, she was discharged home to followup with her physicians 
in ___ and instructed to undergo a KUB in ___ days.  She 
was also advised not to travel back home if any symptoms of 
bleeding. 

# Hyponatremia: presumed hypovolemic, improved with IVF

# Osteoporosis: continued vitamin D and calcium

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO TID 
2. Calcium Carbonate 1500 mg PO DAILY 
3. Vitamin D 800 UNIT PO DAILY 

 
Discharge Medications:
1. Calcium Carbonate 1500 mg PO DAILY 
2. Ferrous Sulfate 325 mg PO TID 
3. Vitamin D 800 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastrointestinal hemorrhage
Acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___, you were admitted to ___ with gastrointestinal 
bleeding and required 4 blood transfusions.  You had a capsule 
study, results of which are pending. You also had an EGD and 
colonoscopy which showed old blood but no source of active 
bleeding.  You had a CT Angiogram which showed no vascular 
malformations.  You will be discharged home to follow-up with 
your physicians in ___.  YOU WILL NEED TO HAVE AN XRAY 
OF YOUR ABDOMEN IN ___ DAYS TO ENSURE THE CAPSULE HAS PASSED.  
It was a pleasure caring for you and we wish you a speedy 
recovery!
 
Followup Instructions:
___